US08563565B2
Ethyl 5-(4-bromo-2,5-difluorophenyl)-1-((S)-tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylate obtained in Preparation Example 11-1 (4.31 g), bis(pinacolato)diboron (3.27 g), potassium acetate (3.16 g) and Pd(dppf)Cl2-DCM complex (439 mg) were added to DMF (41.6 mL), and the mixture was stirred at 95° C. in a nitrogen atmosphere. After two hours, the reaction mixture was stirred at 105° C. for four hours. The reaction mixture was cooled to room temperature and filtered through Celite™. The filtrate was concentrated under reduced pressure, brine and ethyl acetate were added to the residue, and the mixture was then stirred at room temperature for five minutes. The mixture was filtered again through Celite™, and the filtrate was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered through Celite™. The filtrate was concentrated. The residue was purified by silica gel chromatography (n-heptane/ethyl acetate, 20% to 30% to 80%) to give ethyl 5-(2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((S)-tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylate (2.95 g). The resulting ethyl 5-(2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1((S)-tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylate (900 mg), 4-iodo-2-methoxy-3,5-dimethylpyridine obtained in Preparation Example 29(3) (634 mg), Pd(PPh3)4 (116 mg) and cesium carbonate (1.96 g) were added to a mixed solvent of 1,4-dioxane (9.3 mL) and water (3.1 mL), and the mixture was heated under reflux for 2.5 hours. The reaction mixture was cooled to room temperature and partitioned by adding ethyl acetate and brine. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated, and the residue was purified by NH silica gel column chromatography (ethyl acetate/n-heptane, first time: 15% to 36% to 47%, second time: 10% to 30% to 35%) to give the title compound (280 mg).

reactant | Ethyl 5-(4-bromo-2,5-difluorophenyl)-1-((S)-tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylate | BrC1=CC(=C(C=C1F)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC)F | C16H15BrF2N2O3
reactant | bis(pinacolato)diboron | 3.27 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.16 g | C(C)(=O)[O-].[K+]
solvent | DMF | 41.6 mL | CN(C)C=O | C3H7NO
product | ethyl 5-(2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((S)-tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylate | 2.95 g | FC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)F)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC | C22H27BF2N2O5
